US05783591
500 mg (2.0 mmol) of 5-methyl-5-(3-ethoxy-4-methoxyphenyl)-2-oxazolidinone, 125 mg (2.22 mmol) of potassium hydroxide, and 0.167 ml (2.38 mmol) of methyl iodide were stirred in 4 ml of tetrahydrofuran for 4 hours at room temperature. The process was continued analogously to Example 8, thus obtaining 201 mg of 5-(3-ethoxy-4-methoxyphenyl)-3,5-dimethyl-2-oxazolidinone as an oil.

reactant | 5-methyl-5-(3-ethoxy-4-methoxyphenyl)-2-oxazolidinone | 2.0 mmol, 500 mg | CC1(CNC(O1)=O)C1=CC(=C(C=C1)OC)OCC | C13H17NO4
reactant | potassium hydroxide | 2.22 mmol, 125 mg | [OH-].[K+]
reactant | methyl iodide | 2.38 mmol, 0.167 ml | CI | CH3I
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 5-(3-ethoxy-4-methoxyphenyl)-3,5-dimethyl-2-oxazolidinone | 201 mg | C(C)OC=1C=C(C=CC1OC)C1(CN(C(O1)=O)C)C | C14H19NO4
